US06133468
Preparation of 3-chloro-2-bromobenzyl bromide
267.7 g of 2-bromo-3-chlorotoluene, 530 g of chlorobenzene, 2.5 g of conc. H2SO4, 257.9 g of 47% strength hydrobromic acid and 14 g of 2,2'-azobis(2-methylpropionitrile) were mixed at 63° C. in a 2 l stirred apparatus. 332.3 g of a 10% strength aqueous hydrogen peroxide solution were added dropwise over the course of one hour and 25 minutes, and then the mixture was stirred at 63° C. for 30 minutes. GC analysis of the org. phase:

reactant | 2-bromo-3-chlorotoluene | 267.7 g | BrC1=C(C=CC=C1Cl)C | C7H6BrCl
reactant | H2SO4 | 2.5 g | OS(=O)(=O)O | H2O4S
reactant | hydrobromic acid | Br | BrH
reactant | 2,2'-azobis(2-methylpropionitrile) | 14 g | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
reactant | hydrogen peroxide | OO | H2O2
solvent | chlorobenzene | 530 g | ClC1=CC=CC=C1 | C6H5Cl
product | 3-chloro-2-bromobenzyl bromide | ClC=1C(=C(CBr)C=CC1)Br | C7H5Br2Cl
